US05440044
4 g of 6-bromopyridine-2-carboxylic acid and 25 g of thionyl chloride are refluxed for 1 hour. The excess thionyl chloride is removed in a vacuum and the residue is distilled on a bulb tube at 110° C. and 0.04 mbar. The 6-bromopyridine-2carboxylic acid chloride thus obtained is dissolved together with 3.32 g of 4-aminobutyric acid ethyl ester, hydrochloride in 40 ml of dioxane, mixed under ice cooling with 6 g of triethylamine and stirred for 5 hours at room temperature. The reaction mixture is added to water, extracted with diethyl ether, dried (sodium sulfate) and concentrated by evaporation. The residue is distilled on a bulb tube at 170° C. and 0.04 mbar and 3.2 g of 4-(6-bromo-2-pyridylcarbonylamino)-butyric acid ethyl ester is thus obtained as bright yellow oil.

reactant | 6-bromopyridine-2-carboxylic acid | 4 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | thionyl chloride | 25 g | S(=O)(Cl)Cl | Cl2OS
product | 6-bromopyridine-2carboxylic acid chloride | BrC1=CC=CC(=N1)C(=O)Cl | C6H3BrClNO
